US07825256B2
2-(2-tert-Butoxycarbonyl-3-oxo-butyryl)-pyrrolidine-1-carboxylic acid benzyl ester (9.74 g, 25.0 mmol) was dissolved toluene (40 mL) and was washed with 1N HCl (2×50 mL). To the resulting solution was added p-toluenesulfonic acid monohydrate (1.00 g, 5.00 mmol) and the solution was heated under nitrogen to 80° C. for 4 hours. The dark mixture was allowed to cool and was washed with water (3×100 mL). The organic layer was concentrated to give 6.87 g (95%) of 2-(3-oxo-butyryl)-pyrrolidine-1-carboxylic acid benzyl ester as an amber oil. The product was used directly in the subsequent step without further purification. [M+H]+ 290.03.

reactant | 2-(2-tert-Butoxycarbonyl-3-oxo-butyryl)-pyrrolidine-1-carboxylic acid benzyl ester | 25.0 mmol, 9.74 g | C(C1=CC=CC=C1)OC(=O)N1C(CCC1)C(C(C(C)=O)C(=O)OC(C)(C)C)=O | C21H27NO6
reactant | p-toluenesulfonic acid monohydrate | 5.00 mmol, 1.00 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(3-oxo-butyryl)-pyrrolidine-1-carboxylic acid benzyl ester | 6.87 g, 95% | C(C1=CC=CC=C1)OC(=O)N1C(CCC1)C(CC(C)=O)=O | C16H19NO4
